US05495046
To 0.91 g of the crude 4-chloro-2-(4-chlorobutyl)-1-(2-phenylethoxy)benzene, was added 10 ml of di-n-propylamine and the resulting mixture was stirred at 120° C. for 38 hours. After diluting with methylene chloride, the mixture was successively washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, the obtained residue was subjected to silica gel column chromatography (developing solvent; ethyl acetate:n-hexane =1:6) to give 1.07 g of N,N-di-n-propyl-4-[5-chloro-2-(2-phenylethoxy)phenyl]butylamine. To a solution of 1.07 g of N,N-di-n-propyl-4-[5-chloro-2-(2-phenylethoxy)phenyl]butylamine in 10 ml of ethanol, was added a solution of 123 mg of oxalic acid in 5 ml of ethanol. After evaporation of the solvent under reduced pressure, the obtained crystals were recrystallized from ethyl acetate to give 421 mg of N,N-di-n-propyl-4-[5-chloro-2-(2-phenylethoxy)phenyl]butylamine oxalate.

reactant | 4-chloro-2-(4-chlorobutyl)-1-(2-phenylethoxy)benzene | 0.91 g | ClC1=CC(=C(C=C1)OCCC1=CC=CC=C1)CCCCCl | C18H20Cl2O
reactant | di-n-propylamine | 10 ml | C(CC)NCCC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-di-n-propyl-4-[5-chloro-2-(2-phenylethoxy)phenyl]butylamine | 1.07 g | C(CC)N(CCC)CCCCC1=C(C=CC(=C1)Cl)OCCC1=CC=CC=C1 | C24H34ClNO
